US06730754B2
(a) Synthesis of 5,6-Dihydroindeno[2,1-b]indole
In a 1-L flask were charged 36.55 g of 2-indanone (Aldrich, Mw=−132.16, 276.6 mmol), 40.00 g of phenyl-hydrazine hydrochloride (Aldrich, 99%, Mw=144.61, 276.6 mmol) and 0.3 L of i-PrOH. The suspension was warmed to 80° C. in about 30 minutes and the slurry changed color from yellow to dark brown under stirring. The reaction mixture was stirred at 80° C. for 1.5 hours and then was cooled to room temperature in about 30 minutes. The slurry was siphoned into 1.0 L of water containing 34.85 g of NaHCO3, thus obtaining a fine dispersion of a green product (no heat evolution was observed). The slurry was then filtered on a G4 frit, washed with water, dried in air under moderate vacuum for 24 h until to achieve constant weight.

reactant | 2-indanone | 276.6 mmol, 36.55 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | phenyl-hydrazine hydrochloride | 276.6 mmol, 40.00 g | Cl.C1(=CC=CC=C1)NN
reactant | i-PrOH | 0.3 L | CC(C)O | C3H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 1.0 L, 34.85 g | O | H2O
product | 5,6-Dihydroindeno[2,1-b]indole | C1=C2C3=C(NC2=CC=C1)CC1=CC=CC=C13 | C15H11N
